US08609653B2
2-(tert-butoxy)-2-(1-(3-chloro-2-fluorobenzyl)-4-(chroman-6-yl)-6-methyl-1H-pyrrolo[2,3-b]pyridin-5-yl)acetic acid
The title compound was prepared in a manner similar to that described in Example 27, Step H from methyl 2-(tert-butoxy)-2-(4-(chroman-6-yl)-6-methyl-1H-pyrrolo[2,3-b]pyridin-5-yl)acetate and 3-chloro-2-fluorobenzyl bromide. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 7.49-7.42 (m, 1 H), 7.38-7.31 (m, 1 H), 7.24-7.11 (m, 3 H), 7.06-7.00 (m, 1 H), 6.94 (dd, J=4.5, 8.4 Hz, 1 H), 6.30 (dd, J=3.5, 11.5 Hz, 1 H), 5.71-5.52 (m, 3H), 4.33-4.26 (m, 2 H), 2.95-2.81 (m, 2 H), 2.76 (s, 3 H), 2.14-2.03 (m, 2 H), 1.01-0.91 (s, 9 H); LC/MS (m/z) ES+=537.4 (M+1).

reactant | methyl 2-(tert-butoxy)-2-(4-(chroman-6-yl)-6-methyl-1H-pyrrolo[2,3-b]pyridin-5-yl)acetate | C(C)(C)(C)OC(C(=O)OC)C=1C(=C2C(=NC1C)NC=C2)C=2C=C1CCCOC1=CC2 | C24H28N2O4
reactant | 3-chloro-2-fluorobenzyl bromide | ClC=1C(=C(CBr)C=CC1)F | C7H5BrClF
product | 2-(tert-butoxy)-2-(1-(3-chloro-2-fluorobenzyl)-4-(chroman-6-yl)-6-methyl-1H-pyrrolo[2,3-b]pyridin-5-yl)acetic acid | C(C)(C)(C)OC(C(=O)O)C=1C(=C2C(=NC1C)N(C=C2)CC2=C(C(=CC=C2)Cl)F)C=2C=C1CCCOC1=CC2 | C30H30ClFN2O4
